US05589474
(a) 2-(2-Amino-4-trifluoromethylphenylthio)-3-trifluoromethylbenzonitrile
2-Amino-4-trifluoromethylthiophenol (5.74 g, 25 mmol) was added to a mixture of sodium hydride (2.0 g of 60% oil dispersion, 50 mmol) in DMF (100 ml) at 0° under nitrogen. After stirring for 30 minutes at 0°, 2-fluoro-3-trifluoromethylbenzonitrile (4.73 g, 25 mmol) in DMF (20 ml) was added and the mixture kept at room temperature overnight. The reaction mixture was evaporated and azeotroped with toluene, then the residue was partitioned between chloroform and water and the layers separated. Drying (magnesium sulphate) and evaporation of the organic layer gave a residue which was purified by chromatography on silica gel, eluting with dichloromethane. Recrystallisation from cyclohexane afforded the product as colourless needles (6.44 g).

reactant | 2-Amino-4-trifluoromethylthiophenol | 25 mmol, 5.74 g | NC1=C(C=CC(=C1)C(F)(F)F)S | C7H6F3NS
reactant | sodium hydride | 50 mmol, 2.0 g | [H-].[Na+]
reactant | 2-fluoro-3-trifluoromethylbenzonitrile | 25 mmol, 4.73 g | FC1=C(C#N)C=CC=C1C(F)(F)F | C8H3F4N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(2-Amino-4-trifluoromethylphenylthio)-3-trifluoromethylbenzonitrile | 6.44 g | NC1=C(C=CC(=C1)C(F)(F)F)SC1=C(C#N)C=CC=C1C(F)(F)F | C15H8F6N2S
